US04409018
3-Chloro-2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one
In 30 ml of dichloromethane was suspended 21.0 g of 2-(4-chloro-2-fluorophenyl)-3-hydroxy-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one, and 7.5 ml of thionyl chloride was added to the suspension under stirring over a 20-minute period. The reaction mixture was warmed, stirred at 40° to 45° C. for 1 hour and concentrated to dryness under reduced pressure. The residue was dissolved in methylene chloride and, upon addition of hexane, there was produced insoluble matter, which was filtered out. The filtrate was concentrated to dryness under reduced pressure, thereby affording 19.5 g (yield of 87%) of crystals of the subject compound. Recrystallization from cyclohexane yielded white crystals, m.p. 89°-90° C.

reactant | 2-(4-chloro-2-fluorophenyl)-3-hydroxy-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one | 21.0 g | ClC1=CC(=C(C=C1)N1C(C=2CCCCC2C1O)=O)F | C14H13ClFNO2
reactant | thionyl chloride | 7.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 3-Chloro-2-(4-chloro-2-fluorophenyl)-2,3,4,5,6,7-hexahydro-1H-isoindol-1-one | 19.5 g, yield of 87% | ClC1N(C(C=2CCCCC12)=O)C1=C(C=C(C=C1)Cl)F | C14H12Cl2FNO
